US07786165B2
3-(4-{(4-{4-[2-(ethylthio)ethoxy]-2,6-dimethylphenyl}-2,3-dihydro-1H-inden-1-yl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoic acid
To a mixture of ethyl 3-(4-{(4-{4-[2-(ethylthio)ethoxy]-2,6-dimethylphenyl}-2,3-dihydro-1H-inden-1-yl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate (1.06 g, 1.47 mmol), ethanol (5 mL) and tetrahydrofuran (5 mL) was added 1 N aqueous sodium hydroxide solution (2.94 mL, 2.94 mmol), and the mixture was stirred at room temperature for 4 hr. The reaction mixture was neutralized with 1 N hydrochloric acid, and concentrated under reduced pressure to evaporate the organic solvent. The residue was extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (20%-100% ethyl acetate/hexane) to give the title compound (0.804 g, yield 79%) as a colorless oil.

reactant | ethyl 3-(4-{(4-{4-[2-(ethylthio)ethoxy]-2,6-dimethylphenyl}-2,3-dihydro-1H-inden-1-yl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate | 1.47 mmol, 1.06 g | C(C)SCCOC1=CC(=C(C(=C1)C)C1=C2CCC(C2=CC=C1)N(C1=CC(=C(C=C1)CCC(=O)OCC)F)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C38H41FN2O7S2
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 2.94 mmol, 1 N, 2.94 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-(4-{(4-{4-[2-(ethylthio)ethoxy]-2,6-dimethylphenyl}-2,3-dihydro-1H-inden-1-yl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoic acid | 0.804 g, yield 79% | C(C)SCCOC1=CC(=C(C(=C1)C)C1=C2CCC(C2=CC=C1)N(C1=CC(=C(C=C1)CCC(=O)O)F)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C36H37FN2O7S2
